US06472397B1
To a solution of 0.75 g of ethyl 4-[[2-oxo-4-(piperidin-4-yl)-piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride synthesized according to the method described in WO962503 in 16 ml of methylene chloride was added 1.11 g of proton sponge under ice-cooling. After stirring for 5 minutes, the mixture was cooled to −40° C., and a solution of 0.322 g of 1-chloro-2-methylpropyl chloroformate in 2 ml of methylene chloride. After stirring for 45 minutes, the reaction mixture was diluted with ethyl acetate and water, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The organic layer collected was washed with saturated aqueous saline, dried over sodium sulfate, and the solvent was removed by distillation. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=50:1-40:1) to give 0.624 g (74%) of ethyl 4-[[4-[1-(1-chloroethoxycarbonyl)piperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate.

reactant | ethyl 4-[[2-oxo-4-(piperidin-4-yl)-piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride | 0.75 g | Cl.Cl.O=C1N(CCN(C1)C1CCNCC1)CC(=O)C1=CC=C(OCC(=O)OCC)C=C1
reactant | proton sponge | 1.11 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | 1-chloro-2-methylpropyl chloroformate | 0.322 g | ClC(=O)OC(C(C)C)Cl | C5H8Cl2O2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 4-[[4-[1-(1-chloroethoxycarbonyl)piperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate | 0.624 g, 74% | ClC(C)OC(=O)N1CCC(CC1)N1CC(N(CC1)CC(=O)C1=CC=C(OCC(=O)OCC)C=C1)=O | C24H32ClN3O7
